US05804532
Sodium acetate (7.87 g) was added to a stirred mixture of 3-cyclopropyl-2-ethoxymethylene-1-[2-methoxy-4-(methylsulphenyl)phenyl]propan-1,3-dione (30.6 g) and hydroxylamine hydrochloride (8.0 g) in ethanol. The mixture was stirred at room temperature overnight, then evaporated to dryness. The residue was dissolved in ethyl acetate, washed with water, dried (anhydrous magnesium sulphate) and filtered. The filtrate was evaporated to dryness and the residue was triturated with ether and filtered to give 5-cyclopropyl-4-[2-methoxy-4-(methylsulphenyl)benzoyl]isoxazole as a white solid, m.p. 107.5°-108.5° C.

reactant | Sodium acetate | 7.87 g | C(C)(=O)[O-].[Na+]
reactant | 3-cyclopropyl-2-ethoxymethylene-1-[2-methoxy-4-(methylsulphenyl)phenyl]propan-1,3-dione | 30.6 g | C1(CC1)C(C(C(=O)C1=C(C=C(C=C1)SC)OC)=COCC)=O | C17H20O4S
reactant | hydroxylamine hydrochloride | 8.0 g | Cl.NO
solvent | ethanol | C(C)O | C2H6O
product | 5-cyclopropyl-4-[2-methoxy-4-(methylsulphenyl)benzoyl]isoxazole | C1(CC1)C1=C(C=NO1)C(C1=C(C=C(C=C1)SC)OC)=O | C15H15NO3S
